US05691336
A stirred suspension of (S)-3-(4-fluoropheny)-4-(phenylmethyl)-2-morpholinone hydrochloride (2.30 kg, 7.15 moles) in ethyl acetate (22 L) was treated with 10% aqueous sodium bicarbonate (22 L). The resulting organic solution was sequentially washed with 10% aqueous sodium bicarbonate (11 L) and water (2×11 L), then dried overnight with 4A molecular sieves (1 L). The solution was evaporated, then flushed with tetrahydrofuran (2×3 L) in order to remove traces of ethyl acetate. The resulting free base of (S)-3-(4-fluoropheny)-4-(phenylmethyl)-2-morpholinone was dissolved in tetrahydrofuran (19 L) and chilled to -75° C. L-Selectride (lithium tri-sec-butylborohydride, 6.74 L, 1.06M, 7.15 moles) was added to the batch while maintaining the temperature at less than -70° C. The batch was aged for 15 minutes, then 3,5-bis(trifluoromethyl)benzoyl chloride (2.57 kg, 9.29 moles) was added, maintaining the temperature at less than -70° C. The reaction was monitored by HPLC. The reaction was quenched with acetic acid (205 mL) in tetrahydrofuran (800 mL), and the batch was allowed to warm to ambient temperature overnight. The solution was vacuum concentrated and the resulting oil was diluted with hexanes (36 L). The batch was washed sequentially with water (17 L), 10% aqueous sodium bicarbonate (3×8.5 L), and water (2×8.5 L), then dried overnight using 4A molecular sieves (1 L). The batch was assayed by HPLC to contain 2.44 kg (65% yield) of (2R-cis)-3,5-bis(trifluoromethyl)benzeneacetic acid 3-(4-fluorophenyl)-4-(phenylmethyl)-2-morpholinyl ester. This batch was combined with another batch of (2R-cis)-3,5-bis(trifluoromethyl)benzeneacetic acid 3-(4-fluorophenyl)-4-(phenylmethyl)-2-morpholinyl ester (0.59 kg assay in 7 L hexanes) that was prepared just prior to the current batch. The combined batch solutions were filtered through a 20 μm line filter then diluted with hexanes (9 L). The crude (2R-cis)-3,5-bis(trifluoromethyl)benzeneacetic acid 3-(4-fluorophenyl)-4-(phenylmethyl)-2-morpholinyl ester solution (3.03 kg assay, 5.74 moles) was treated with hydrochloric acid in diethyl ether (9.6 L, 1.0M), giving a white precipitate of (2R-cis)-3,5-bis(trifluoromethyl)benzeneacetic acid 3-(4-fluorophenyl)-4-(phenylmethyl)-2-morpholinyl ester hydrochloride salt (the hydrochloride salt was formed in order to remove tri-sec-butyl borane residue (from the L-Selectride)). The solid was collected by filtration, washed with hexanes (2×8 L), then dried under nitrogen. The hydrochloride salt of the product was broken by slurrying in a mixture of toluene (36 L) and 10% aqueous sodium bicarbonate (13 L). The resulting organic solution was washed with 10% aqueous sodium bicarbonate (13 L) and water (2×18 L). The toluene solution was assayed to contain 3.00 kg of (2R-cis)-3,5-bis(trifluoromethyl)-benzeneacetic acid 3-(4-fluorophenyl)-4-(phenylmethyl)-2-morpholinyl ester (80% by area, corrected for toluene). The batch was stored over 4A molecular sieves (1 L).

reactant | (S)-3-(4-fluoropheny)-4-(phenylmethyl)-2-morpholinone hydrochloride | 7.15 moles, 2.30 kg | Cl.FC1=CC=C(C=C1)[C@@H]1N(CCOC1=O)CC1=CC=CC=C1
reactant | sodium bicarbonate | 22 L | C([O-])(O)=O.[Na+]
reactant | L-Selectride | 7.15 moles, 1.06M, 6.74 L | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | 9.29 moles, 2.57 kg | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
solvent | ethyl acetate | 22 L | C(C)(=O)OCC | C4H8O2
product | (2R-cis)-3,5-bis(trifluoromethyl)benzeneacetic acid 3-(4-fluorophenyl)-4-(phenylmethyl)-2-morpholinyl ester | 2.44 kg, 65% yield | FC1=CC=C(C=C1)[C@@H]1N(CCO[C@@H]1OC(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CC=CC=C1 | C27H22F7NO3
